US08629137B2
Step 1: 4-methyl-3H-benzothiazol-2-one
5.00 g (30.5 mmol) 2-amino-4-methylbenzothiazole in 15.0 mL formic acid, 6.10 mL glacial acetic acid and 112 mL conc. hydrochloric acid were cooled to −5° C. with stirring and slowly combined with a solution of 2.10 g (30.5 mmol) sodium nitrite in 5.0 mL water. The reaction mixture was stirred for 20 min at this temperature, then heated to RT and then refluxed overnight. The cooled mixture was then mixed with water and extracted several times with EtOAc. The combined organic phases were washed with saturated sodium chloride solution, dried on sodium sulphate, filtered and the filtrate was evaporated down.

reactant | 2-amino-4-methylbenzothiazole | 30.5 mmol, 5.00 g | NC=1SC2=C(N1)C(=CC=C2)C | C8H8N2S
reactant | sodium nitrite | 30.5 mmol, 2.10 g | N(=O)[O-].[Na+]
solvent | formic acid | 15.0 mL | C(=O)O | CH2O2
solvent | acetic acid | 6.10 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 112 mL | Cl | ClH
solvent | water | 5.0 mL | O | H2O
product | 4-methyl-3H-benzothiazol-2-one | CC1=CC=CC2=C1NC(S2)=O | C8H7NOS
